US05082961
cis-13-Octadecen-3-yn-2-ol was synthesized in the following manner. Thus, a Grignard mixture containing 1.0 mole of methyl magnesium chloride dissolved in 300 ml of tetrahydrofuran was added dropwise into 153 g (0.81 mole) of 8-bromo-1-octyne kept at 50° to 55° C. and the reaction mixture was agitated for 1 hour at 60° C. followed by the addition of 2 g of copper (I) iodide CuI. Thereafter, a second Grignard mixture containing 1.0 mole of cis-3-octenyl magnesium chloride dissolved in 300 ml of tetrahydrofuran was added dropwise to the reaction mixture kept at 40° to 55° C. and the reaction mixture was agitated for 4 hours at 40° C.

reactant | methyl magnesium chloride | 1.0 mole | C[Mg]Cl
reactant | 8-bromo-1-octyne | 0.81 mole, 153 g | BrCCCCCCC#C | C8H13Br
reactant | cis-3-octenyl magnesium chloride | 1.0 mole | C(C\C=C/CCCC)[Mg]Cl
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | cis-13-Octadecen-3-yn-2-ol | CC(C#CCCCCCCCC\C=C/CCCC)O | C18H32O
